US09260392B2
A mixture of methyl 6-(4-chlorophenyl)-5-fluoro-4-((4-methoxyphenyl)amino)-picolinate (0.155 g, 0.400 mmol) and 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (0.158 g, 0.800 mmol) in 1:1 CH3CN/H2O (5 mL) was stirred at room temperature. After 30 min the suspension of the solid ester dissolved giving a yellow/orange solution, then an orange solid began to form. After stirring at room temperature for 2 h, the reaction solution was decanted, and the orange solid was washed with 1:1 CH3CN/H2O (10 mL). The solid was dissolved in CH2Cl2 and dried (MgSO4), and the solvent was removed to give methyl 6-(4-chlorophenyl)-5-fluoro-4-((4-oxocyclohexa-2,5-dien-l-ylidene)amino)picolinate (0.13 g, 0.316 mmol, 79% yield) as an orange solid: mp 154-156° C.; 1H NMR (400 MHz, CDCl3) δ 7.97 (d, J=7.3 Hz, 2H), 7.65 (d, J=5.4 Hz, 1H), 7.48 (d, J=8.6 Hz, 2H), 7.36 (dd, J=10.1, 2.6 Hz, 1H), 6.87 (d, J=10.3 Hz, 1H), 6.77 (dd, J=10.1, 2.1 Hz, 1H), 6.61 (dd, J=10.2, 2.1 Hz, 1H), 4.02 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −145.68.

reactant | methyl 6-(4-chlorophenyl)-5-fluoro-4-((4-methoxyphenyl)amino)-picolinate | 0.400 mmol, 0.155 g | ClC1=CC=C(C=C1)C1=C(C(=CC(=N1)C(=O)OC)NC1=CC=C(C=C1)OC)F | C20H16ClFN2O3
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 0.800 mmol, 0.158 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
solvent | CH3CN H2O | 5 mL | CC#N.O
product | methyl 6-(4-chlorophenyl)-5-fluoro-4-((4-oxocyclohexa-2,5-dien-l-ylidene)amino)picolinate | 0.316 mmol, 0.13 g, 79% yield | ClC1=CC=C(C=C1)C1=C(C(=CC(=N1)C(=O)OC)N=C1C=CC(C=C1)=O)F | C19H12ClFN2O3
